* source B1
E_E1         N00211 N00215 0 N00222 2
R_R1         N00254 N00211  4 TC=0,0 
R_R2         0 N00222  6 TC=0,0 
V_V1         N00254 0 12Vdc
V_V2         N00222 N00215 4Vdc
